US05417882
b) 6-(4'-Cyanobiphenyl-4-oxy)caproyl chloride
A solution comprising 16.3 g (52.7 mmol) of 6-(4'-cyanobiphenyl-4-oxy)caproic acid, 7.5 g (63.3 mmol) of thionyl chloride and 3 drops of dimethylformamide in 160 ml of toluene was heated at the boil for 1.5 hours. The readily volatile constituents were removed under reduced pressure at 80° C. and the residue was dried under reduced pressure at room temperature.

reactant | 6-(4'-cyanobiphenyl-4-oxy)caproic acid | 52.7 mmol, 16.3 g | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCC(=O)O | C19H19NO3
reactant | thionyl chloride | 63.3 mmol, 7.5 g | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(4'-Cyanobiphenyl-4-oxy)caproyl chloride | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCC(=O)Cl | C19H18ClNO2
